US05374632
A mixture of 3.7 g of anhydrous potassium acetate and 3.0 g of diphenyl diselenide in 25 ml of glacial acetic acid was stirred at room temperature while a solution of 1.5 g of bromine in 5 ml of glacial acetic acid was added rapidly. A slight warming of the reaction was noted. The deep red-brown mixture was stirred for 10 minutes and then there was added 4.0 g of 8-methyl-6-(1,2,5,6-tetrahydropyridin-1-yl) -1,2,4-triazolo[4,3-b]pyridazine and stirring at room temperature continued. After 10 minutes, the color of the mixture faded considerably and the reaction was shown to be complete by thin layer chromatography [silica gel, eluted with 95% dichloromethane/5% ethanol (10% concentrated ammonium hydroxide)]. The reaction was diluted with an equal volume of dichloromethane and the inorganic salts filtered off. The filtrate was concentrated to a viscous oil which was subjected to chromatographic purification on a Waters Prep. 500 system with silica gel cartridges and elution with the same solvent system used above for the thin layer chromatography. The clean fractions yielded 4-acetoxy-1-(8-methyl-1,2,4-triazolo [4,3-b]pyridazin-6-yl)-3(phenylselenyl)piperidine as a viscous oil.

reactant | potassium acetate | 3.7 g | C(C)(=O)[O-].[K+]
reactant | diphenyl diselenide | 3.0 g | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
reactant | bromine | 1.5 g | BrBr | Br2
reactant | 8-methyl-6-(1,2,5,6-tetrahydropyridin-1-yl) -1,2,4-triazolo[4,3-b]pyridazine | 4.0 g | CC=1C=2N(N=C(C1)N1CC=CCC1)C=NN2 | C11H13N5
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-acetoxy-1-(8-methyl-1,2,4-triazolo [4,3-b]pyridazin-6-yl)-3(phenylselenyl)piperidine | C(C)(=O)OC1C(CN(CC1)C=1C=C(C=2N(N1)C=NN2)C)[Se]C2=CC=CC=C2 | C19H21N5O2Se
